US04849443
8.57 g of 2-trifluoromethyl-1H-indole described in J. Org. Chem. (1983) 48-3233 and 10 ml of tetrahydrofuran were mixed together under an inert atmosphere at +5° C. and after 15 minutes, 2.4 g of sodium hydride in oil were added. After 2 minutes, 4.5 ml of 2-bromo-propyne were introduced and the resulting mixture was stirred for 30 minutes at +5° C., then for one hour at 25° C. Another 4.5 ml of bromo-propyne were added and the mixture was stirred for 4 hours and then poured into an iced solution of monosodium phosphate and extracted with ethyl ether. The extracts were concentrated to dryness by distillation under reduced pressure and the residue was chromatographed over silica and eluted with a mixture of hexane and ethyl acetate (95/5) to obtain 8.88 g of 1-(2-propynyl)-2-trifluoromethyl-(1H)-indole melting at 59° C.

reactant | 2-trifluoromethyl-1H-indole | 8.57 g | FC(C=1NC2=CC=CC=C2C1)(F)F | C9H6F3N
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | bromo-propyne | 4.5 ml | BrC#CC | C3H3Br
reactant | monosodium phosphate | P(=O)([O-])(O)O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(2-propynyl)-2-trifluoromethyl-(1H)-indole | 8.88 g | C(C#C)N1C(=CC2=CC=CC=C12)C(F)(F)F | C12H8F3N
